US05250522
(S)-5-(Biphenyl-4-yl)-4-[(dimethylphosphonomethyl)-amino]-2-pentenoic acid ethyl ester (536 mg, 1.28 mmol) is dissolved in methanol (1 mL) and treated with 1N sodium hydroxide (2 mL, 2 mmol). The reaction mixture is stirred for 3 hours at room temperature, then 1N hydrochloric acid (5 mL) is added. The carboxylic acid is extracted in methylene chloride (20 mL). The organic layer is separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue is suspended in methylene chloride (2 mL) under nitrogen and treated with trimethylsilyl bromide (0.424 mL, 3.21 mmol). The clear solution is stirred at room temperature for 18 hours, then concentrated in vacuo. The residue is triturated with water (5 mL) and the precipitate is filtered off and then dissolved in 1N sodium hydroxide (5 mL). 1N Hydrochloric acid (8 mL) is added to precipitate the product which is filtered and washed with water (10 mL). The solid suspended in ethanol (5 mL) and stirred for 20 minutes with propylene oxide (2 mL). Concentration in vacuo yields (S)-5-(biphenyl-4-yl)-4-(phosphonomethylamino)-2-pentenoic acid as a white solid; m.p.: 231°-233°.

reactant | (S)-5-(Biphenyl-4-yl)-4-[(dimethylphosphonomethyl)-amino]-2-pentenoic acid ethyl ester | 1.28 mmol, 536 mg | C(C)OC(C=C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NCP(=O)(OC)OC)=O | C22H28NO5P
reactant | sodium hydroxide | 2 mmol, 1N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
reactant | trimethylsilyl bromide | 3.21 mmol, 0.424 mL | C[Si](C)(C)Br | C3H9BrSi
solvent | methanol | 1 mL | CO | CH4O
product | (S)-5-(biphenyl-4-yl)-4-(phosphonomethylamino)-2-pentenoic acid | C1(=CC=C(C=C1)C[C@@H](C=CC(=O)O)NCP(=O)(O)O)C1=CC=CC=C1 | C18H20NO5P
